US06610707B1
N′1-[((2S)-1-[(4-Fluorophenyl)sulfonyl]-2-piperidylcarbonyl)oxy]ethanimidamide
The title compound was prepared by a similar method to Preparation 39 from (2S)-1-[(4-fluorophenyl)sulfonyl]-2-piperidinecarboxylic acid [see Preparation 38], N′1-hydroxyethanimidamide [La Manna, et al, Theochem (1990), 69, 161-68], N-methyl morpholine, hydroxybenzotriazole hydrate and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride, to afford N′1-[((2S)-1-[(4-fluorophenyl)sulfonyl]-2-piperidylcarbonyl)oxy]ethanimidamide as a colourless gum.

reactant | (2S)-1-[(4-fluorophenyl)sulfonyl]-2-piperidinecarboxylic acid | FC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CCCC1)C(=O)O | C12H14FNO4S
reactant | N′1-hydroxyethanimidamide | ON=C(C)N | C2H6N2O
reactant | N-methyl morpholine | CN1CCOCC1 | C5H11NO
reactant | hydroxybenzotriazole hydrate | O.OC1=CC=CC=2NN=NC21
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | Cl.CN(CCCN=C=NCC)C
product | N′1-[((2S)-1-[(4-fluorophenyl)sulfonyl]-2-piperidylcarbonyl)oxy]ethanimidamide | FC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CCCC1)C(=O)ON=C(C)N | C14H18FN3O4S
